US08252793B2
benzyl 2-(2-(methylcarbamoyl)morpholino)acetate was dissolved in ethanol (40 mL), Pd/C 10% (100 mg) was added to the solution, and the mixture was stirred overnight under hydrogen (balloon) then filtered through celite and concentrated to give 2-(2-(methylcarbamoyl)morpholino)acetic acid. MS (APCI) 203 (M+1)

reactant | benzyl 2-(2-(methylcarbamoyl)morpholino)acetate | CNC(=O)C1OCCN(C1)CC(=O)OCC1=CC=CC=C1 | C15H20N2O4
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 2-(2-(methylcarbamoyl)morpholino)acetic acid | CNC(=O)C1OCCN(C1)CC(=O)O | C8H14N2O4
